US08486952B2
To a solution of 2,4-dichloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (Preparation G) (395 mg, 1.49 mmol) in THF (3700 μL), 2 M MeNH2 in THF (3700 μL, 7.45 mmol) was added. The reaction was allowed to stir at rt. When the reaction was complete, removed solvent and applied residue to silica gel. Eluted with EtOAc/Hex to afford the desired 2-chloro-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (80.8 mg, 0.220 mmol, 69.1% yield). LC-MS (M+H)+=260.1. 1H NMR (500 MHz, CDCl3) δ ppm 7.07 (3H, dd, J=8.5, 5.5 Hz), 6.96 (2H, t, J=8.7 Hz), 4.72 (1H, br s), 4.23 (1H, t, J=7.2 Hz), 3.09 (3H, d, J=4.9 Hz), 2.67-2.77 (1H, m), 2.58-2.67 (2H, m), 2.01-2.11 (1H, m).

reactant | 2,4-dichloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 1.49 mmol, 395 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)Cl | C13H10Cl2N2
reactant | MeNH2 | 2 M | CN | CH5N
solvent | THF | 3700 μL | C1CCOC1 | C4H8O
solvent | THF | 7.45 mmol, 3700 μL | C1CCOC1 | C4H8O
product | 2-chloro-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.220 mmol, 80.8 mg, 69.1% yield | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC | C14H14ClN3
